US04098888
To a solution of 2.2 g of 7β-{α-ethoxyimino-[2-(chloroacetamido)thiazol-4-yl]acetamido}-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester in 20 ml of tetrahydrofuran is added a solution of 550 mg of thiourea in 20 ml of ethanol, followed by addition of 50 mg of triethylbenzylammonium bromide. The mixture is stirred for 20 hours at room temperature and concentrated. The residue is dissolved in a mixture of ethyl acetate and tetrahydrofuran and the solution was washed with aq. sodium bicarbonate solution and then water, followed by drying over anhydrous magnesium sulfate. The dried solution is subjected to distillation of the solvent to give powder which is washed with chloroform and ether and dried. The procedure yields 1.047 g of 7β-[β-ethoxyimino-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester. Yield 52.9%.

reactant | 7β-{α-ethoxyimino-[2-(chloroacetamido)thiazol-4-yl]acetamido}-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester | 2.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(C(=NOCC)C=2N=C(SC2)NC(CCl)=O)=O)=O)C(C)SC2=NN=NN2 | C32H30ClN9O6S3
reactant | thiourea | 550 mg | NC(=S)N | CH4N2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | triethylbenzylammonium bromide | 50 mg | [Br-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 7β-[β-ethoxyimino-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid benzhydryl ester | 1.047 g, Yield 52.9% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(C(C=2N=C(SC2)N)=NOCC)=O)=O)C(C)SC2=NN=NN2 | C30H29N9O5S3
